US05705676
A solution of 2-methyl-4-diethylaminoaniline hydrochloride (95.5 g, 460 mmol) in 200 mL of CH2Cl2 and Na2CO3 (21.6 g, 460 mmol) in 100 mL of water was stirred for 0.5 hr in the presence of a small amount of Na2S2O4 to prevent air oxidation. The layers were separated and the CH2Cl2 layer was dried over K2 CO3, filtered and concentrated to afford free 2-methyl-4-diethylaminoaniline. 1,6-Diisocyanatohexane (75 g, 445 mmol) was taken up in 400 mL of THF. The free phenylenediamine was dissolved in 100 mL of THF and added to the diisocyanatohexane solution via a dropping funnel. The mixture was stirred and then maintained at room temperature overnight. The mixture was filtered, and the filtrate was concentrated, and the remaining solid was washed with petroleum ether and filtered again to provide very pure product. The original precipitate collected was composed of the desired product and bis-protected product. This was taken up in 1 L of THF, refluxed for 15 minutes, then filtered. The filtrate was concentrated to provide a solid, washed with ether, and filtered to provide the desired product. The solid filtered-off after refluxing also contained some of the desired product, however, further isolation was not pursued. Overall yield was 63 g (40%).

reactant | 2-methyl-4-diethylaminoaniline hydrochloride | 460 mmol, 95.5 g | Cl.CC1=C(N)C=CC(=C1)N(CC)CC
reactant | Na2CO3 | 460 mmol, 21.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 2-methyl-4-diethylaminoaniline | CC1=C(N)C=CC(=C1)N(CC)CC | C11H18N2
